US08466297B2
In Synthesis 1989, 953 a synthesis of rac.-Pregabalin, starting from (E)-5-methyl-hex-2-enoic acid ethyl ester, which was converted with nitromethane into 5-methyl-3-nitromethyl-hexanoic acid ethyl ester, has been reported. Subsequent catalytic hydrogenation followed by saponification leads to rac.-Pregabalin. Recently an enzymatic hydrolysis of this racemic nitro ester was carried out (Tetrahedron Asymmetry 2008, 19, 945). With enzyme Novozyme 435 enantiomerically enriched (S)-5-methyl-3-nitromethyl-hexanoic acid could be obtained in a good selectivity if the conversion was stopped at 30%.

reactant | Pregabalin | CC(C)C[C@@H](CC(=O)O)CN | C8H17NO2
reactant | (E)-5-methyl-hex-2-enoic acid ethyl ester | C(C)OC(\C=C\CC(C)C)=O | C9H16O2
reactant | 5-methyl-3-nitromethyl-hexanoic acid ethyl ester | C(C)OC(CC(CC(C)C)C[N+](=O)[O-])=O | C10H19NO4
solvent | nitromethane | [N+](=O)([O-])C | CH3NO2
product | (S)-5-methyl-3-nitromethyl-hexanoic acid | CC(C[C@@H](CC(=O)O)C[N+](=O)[O-])C | C8H15NO4
